US07399774B2
4-(1-Oxo-indan-5-yloxy)-benzamide
Combine 4-(1-Oxo-indan-5-yloxy)-benzonitrile (1.64 g, 6.58 mmol), tert-butyl alcohol (50 ml), and grounded KOH (1.85 g, 32.89 mmol) at room temperature under nitrogen atmosphere. Stir the reaction for 24 hours then concentrate under reduced pressure. Add Ethyl acetate to the reaction mixture and wash with brine. Dry the organic layer over Na2SO4. A yellow-orange solid precipitates out to afford 101.0 mg, 0.38 mmol (5.7% yield) of the title compound: No Characterization—Characterized by sequential reaction.

reactant | 4-(1-Oxo-indan-5-yloxy)-benzonitrile | 6.58 mmol, 1.64 g | O=C1CCC2=CC(=CC=C12)OC1=CC=C(C#N)C=C1 | C16H11NO2
reactant | KOH | 32.89 mmol, 1.85 g | [OH-].[K+]
solvent | tert-butyl alcohol | 50 ml | C(C)(C)(C)O | C4H10O
product | 4-(1-Oxo-indan-5-yloxy)-benzamide | 0.38 mmol, 101.0 mg, 5.7% yield | O=C1CCC2=CC(=CC=C12)OC1=CC=C(C(=O)N)C=C1 | C16H13NO3
